US04346087
Into an apparatus similar to that in Example 1, were charged 339.5 g (1 mole) of N-(2-hydroxy)hexadecyldiethylenetriamine and 130.1 g of ethyl 2-formylpropionate. At 140° to 150° C., 18 g of water and 46 g of ethanol were distilled off to obtain 4-(2-hydroxyhexadecyl)aminoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-(2-hydroxy)hexadecyldiethylenetriamine | 1 mole, 339.5 g | OC(CNCCNCCN)CCCCCCCCCCCCCC | C20H45N3O
reactant | ethyl 2-formylpropionate | 130.1 g | C(=O)C(C(=O)OCC)C | C6H10O3
product | 4-(2-hydroxyhexadecyl)aminoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | OC(CNCCN1CCN=CC(C1=O)C)CCCCCCCCCCCCCC | C24H47N3O2
